US04371736
2,2'-[1,2-Phenylenebis(thio)]bis[5-chloropyridine]
In 50 ml of stirred dimethylformamide, a mixture of 3.0 grams (0.02 mole) dimercaptobenzene, 7.0 grams potassium carbonate, and 7.0 grams of 2,5-dichloropyridine is heated at 80° for 5 hours. Thereafter pouring into excess H2O, the mixture is extracted with ethyl ether (200 ml) and washed with H2O, saturated NaHCO3, and brine, dried (MgSO4), and evaporated to yield the crude product which can be recrystallized from 1-chlorobutane.

reactant | dimercaptobenzene | 0.02 mole, 3.0 grams | SC1=C(C=CC=C1)S | C6H6S2
reactant | potassium carbonate | 7.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dichloropyridine | 7.0 grams | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | H2O | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2,2'-[1,2-Phenylenebis(thio)]bis[5-chloropyridine] | C1(=C(C=CC=C1)SC1=NC=C(C=C1)Cl)SC1=NC=C(C=C1)Cl | C16H10Cl2N2S2
